2105-04-21 08:03:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 EKG - At [**2105-4-20**] 10:40 AM
 ULTRASOUND - At [**2105-4-20**] 11:17 AM
   PT TO HAVE A U/S GUIDED FLUID ASPIRATION OF HIS RT HIP
 BLOOD CULTURED - At [**2105-4-20**] 10:29 PM
   - 60cc drained from right hip; cell count and diff neg but gram stain
   with 3+ PMN's, 4+ GNR's, 4+ GPC's in pairs and chains.
   - growning GPC's in [**12-26**] blood culture bottles
   - adenosine given due to SVT and hypotension, converted to NSR with
   improved BP
   - weaned down pressors but then dropped BP, pressors slightly increased
   and bolused 1 liter
   - chills this morning
   Allergies:
   Ivp Dye
   Iodine Containing
   Unknown;
   Motrin (Oral) (Ibuprofen)
   Unknown;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Vancomycin - [**2105-4-20**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2105-4-21**] 12:39 AM
   Infusions:
   Phenylephrine - 0.8 mcg/Kg/min
   Other ICU medications:
   Omeprazole (Prilosec) - [**2105-4-20**] 08:16 AM
   Adenosine - [**2105-4-20**] 10:40 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Flowsheet Data as of  [**2105-4-21**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 35.3
C (95.5
   HR: 61 (60 - 151) bpm
   BP: 109/60(72) {75/45(52) - 130/73(86)} mmHg
   RR: 13 (10 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 10 (3 - 21)mmHg
   Total In:
                                                                  9,049 mL
                                                                  2,319 mL
   PO:
                                                                    750 mL
   TF:
   IVF:
                                                                  4,299 mL
                                                                  2,319 mL
   Blood products:
   Total out:
                                                                  2,295 mL
                                                                    410 mL
   Urine:
                                                                  2,295 mL
                                                                    410 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,754 mL
                                                                  1,909 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99% on room air
   ABG: ///21/
   Physical Examination
   GENERAL - NAD, comfortable
   HEENT - sclera anicteric, dry MM, OP clear
   NECK - supple, no LAD or JVD
   LUNGS - CTA bilat, no r/rh/wh
   HEART - RRR, nl S1-S2, no MRG
   ABDOMEN - +BS, soft/ND, obese, +TTP diffusely w/ voluntary guarding, no
   rebound, no HSM, ostomy intact and functional, suprapubic catheter
   intact and functional
   SKIN - multiple sacral decubitus ulcers (2 w/ wound-vacs in place),
   others w/o erythema or exudate; also ulcers on ankles bilaterally; no
   other rashes
   EXTREM - mild BLE edema
   NEURO - A&Ox3, paraplegic
   Labs / Radiology
   546 K/uL
   8.1 g/dL
   100 mg/dL
   0.5 mg/dL
   21 mEq/L
   3.4 mEq/L
   9 mg/dL
   111 mEq/L
   138 mEq/L
   25.9 %
   19.3 K/uL
        [image002.jpg]
                             [**2105-4-21**]  04:04 AM
   WBC
   19.3
   Hct
   25.9
   Plt
   546
   Cr
   0.5
   Glucose
   100
   Other labs: PT / PTT / INR:14.7/34.6/1.3, Lactic Acid:1.3 mmol/L,
   Ca++:7.2 mg/dL (ALB 1.7), Mg++:2.4 mg/dL, PO4:2.2 mg/dL
   Microbiology: Blood Cx - GPCs in pairs and long chains ([**12-26**])
   Urine Cx - mixed bacterial flora c/w contamination
   C.diff negative x1
   Abscess - 3+ PMNs, 4+ GNRs, 4+ GPCs in pairs and short chains
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERATION IN NUTRITION
   58-yo paraplegic man with decubitus ulcers with Vac drains, colostomy /
   urostomy, who presents with fever, tachycardia, and hypotension, c/w
   sepsis.
   #. Septic shock - Pt w/ fever, leukocytosis and bandemia, all
   supportive of current infection. VS abnormalities c/w septic shock. Pt
   mentating appropriately and currently w/o signs of end-organ damage.
   Infectious source not yet obvious, possibilities includes urine
   (although may be colonized given suprapubic catheter), decubitus ulcers
   (although do not appear infected on exam), pulmonary (given his
   symptoms, although CXR was clear), abdominal (given his tender abdomen,
   although no findings on CT) and right anterior thigh fluid collection.
   Most likely source is right hip/groin abscess given findings from IR
   tap, concern for joint involvement and hardware involvement. C.diff
   negative, Urine Cx neg. Blood Cx +GPCs [**12-26**].
   - cont aggressive IVF resuscitation w/ NS
   - cont vasopressor support until adequately fluid resuscitated
   - cont broad spectrum Abx: Vanc / Zosyn / Azithro pending Cx data
   - f/u blood culture, fluid aspirate, send surveillance blood cultures
   - appreciate general surgery and orthopedics consults, will need
   probable surgical intervention given findings and location
   - follow serial labs including lactate, chemistries, blood gases
   #. Right anterior groin collection - S/p attempted aspiration in ED,
   fluid sent for analysis. Fluid showing probable poly-microbial
   collection.
   - appreciate general surgery and orthopedics consults, will need
   probable surgical intervention given findings and location
   - cont broad spectrum Abx: Vanc / Zosyn / Azithro pending Cx data
   #. Decubitus ulcerations - Chronic, currently w/ wound-Vacs in place on
   two separate ulcers.
   - wound care nursing consult
   - contine to monitor for signs of infection
   - would likely be adequately covered with broad-spectrums
   #. Productive cough - Symptoms are likely upper respiratory in origin,
   and clear exam and CXR is consistent. However, given his hypovolemia
   from sepsis, a pneumonia may be missed.
   - consider CXR after adequate IVF resuscitation
   - cont home Albuterol nebs PRN
   - pneumonia would be adequately covered with broad-spectrums
   #. Abdominal pain - Chronic per patient, and symptoms are migratory in
   nature. CT with chronic findings, no acute changes.
   - appreciate general surgery recs
   - cont to monitor
   #. Paraplegia
   - cont Lovenox, holding this morning for aspiration procedure
   - cont home OxyContin, PRN Percocet / Tylenol, Ativan
   - cont home vitamins: Vit B12, iron, folate, MVI
   - cont home bowel regimen: Colace, PRN Senna / Bisacodyl / MoM
   - Nutrition consult
   #. GERD - cont home PPI, PRN antacid
   #. HL - cont home TriCor
   #. Communication - with patient, girlfriend [**Name (NI) 7158**] [**Name (NI) 7159**]
   [**Telephone/Fax (1) 7160**]
   ICU Care
   Nutrition: NPO for procedure, o/w Regular diet, nutrition c/s,
   aggressive IVF resuscitation, replete lytes PRN
   Glycemic Control:
   Lines:
   Multi Lumen - [**2105-4-20**] 06:52 AM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2105-04-21 09:08:00 Physician Attending Progress Note
Chief Complaint:  Septic hip joint on right.
   Patient seen and examined history, exam, and assessment and plan
   confirmed with resident.
   24 Hour Events: 60 cc fluid removed from right hip 4+ gram neg rods and
   4+GPC
 bottles GPC from blood.
   SVT/hypotension episode converted with adenosine.
 EKG - At [**2105-4-20**] 10:40 AM
 ULTRASOUND - At [**2105-4-20**] 11:17 AM
   PT TO HAVE A U/S GUIDED FLUID ASPIRATION OF HIS RT HIP
 BLOOD CULTURED - At [**2105-4-20**] 10:29 PM
   Allergies:
   Ivp Dye
   Iodine Containing
   Unknown;
   Motrin (Oral) (Ibuprofen)
   Unknown;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2105-4-21**] 08:00 AM
   Vancomycin - [**2105-4-21**] 08:00 AM
   Azithromycin - [**2105-4-21**] 08:00 AM
   Infusions:
   Phenylephrine - 0.8 mcg/Kg/min
   Other ICU medications:
   Adenosine - [**2105-4-20**] 10:40 AM
   Omeprazole (Prilosec) - [**2105-4-21**] 08:00 AM
   Other medications:
   vanc 1g Q12
   Zosyn   4.5gm q8hr
   asorbic acid/zinc/vit A
   azithro
   Colace
   PPI
   tricor
   oxycodone 80mg po q12
   folic acid
   Iron
   MVI
   vit B12
   Changes to medical and family history:
   See admission H+P
   Review of systems is unchanged from admission except as noted below
   Review of systems: See resident note unremarkable
   Flowsheet Data as of  [**2105-4-21**] 09:07 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.9
C (96.6
   HR: 65 (60 - 151) bpm
   BP: 103/60(71) {75/45(52) - 130/73(86)} mmHg
   RR: 14 (10 - 20) insp/min
   SpO2: 99% RA
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 15 (3 - 21)mmHg
   Total In:
                                                                  9,049 mL
                                                                  2,779 mL
   PO:
                                                                    750 mL
                                                                    120 mL
   TF:
   IVF:
                                                                  4,299 mL
                                                                  2,659 mL
   Blood products:
   Total out:
                                                                  2,295 mL
                                                                    685 mL
   Urine:
                                                                  2,295 mL
                                                                    685 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  6,754 mL
                                                                  2,094 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///21/
   Physical Examination
   GENERAL -  appearing male paraplegic in NAD, comfortable
   HEENT - NC/AT, PERRL/EOMI, sclera anicteric
   NECK - supple, no LAD or thyromegaly, no JVD
   LUNGS - CTA bilaterally
   HEART - RRR, nl S1-S2, no MRG
   ABDOMEN - +BS, soft/ND, obese, non tender
   SKIN - multiple sacral decubitus ulcers (2 w/ wound-vacs in place),
   others w/o erythema or exudate; also ulcers on ankles bilaterally; no
   other rashes.
   EXTREM - mild BLE edema, contracted extremities
   NEURO - A&Ox3, paraplegic
   Labs / Radiology
   8.1 g/dL
   546 K/uL
   100 mg/dL
   0.5 mg/dL
   21 mEq/L
   3.4 mEq/L
   9 mg/dL
   111 mEq/L
   138 mEq/L
   25.9 %
   19.3 K/uL
        [image002.jpg]
                             [**2105-4-21**]  04:04 AM
   WBC
   19.3
   Hct
   25.9
   Plt
   546
   Cr
   0.5
   Glucose
   100
   Other labs: PT / PTT / INR:14.7/34.6/1.3, Lactic Acid:1.3 mmol/L,
   Ca++:7.2 mg/dL, Mg++:2.4 mg/dL, PO4:2.2 mg/dL
   Micro gram 3+poly 4+ gram + pairs short chains  and Gram neg rods
   Blood 2/2 bottles gram + Cocci pairs and long chains
   Assessment and Plan
   58-yo paraplegic man with decubitus ulcers with Vac drains, colostomy /
   urostomy, who presents with fever, tachycardia, and hypotension, c/w
   sepsis. Concerning right hip abscess as source of sepsis shock.
   #. Septic shock
 improved
   - titrate pressors to off
   - broad spectrum Abx: Vanc / Zosyn will d
c azithro
   - f/u blood culture, fluid aspirate, C.diff
   -Check serial blood cx for clearance
   - appreciate general surgery,  orthopedics and plastics consults
   -Concern for that hardware may become infected surgery aware
   -Goal fluid status even
   #. Right anterior groin collection - S/p attempted aspiration in ED,
   fluid sent for analysis.
   -Ortho service would like to take to OR for washout.
   -Ortho requests Tx to Hct 30 for surgery
   .
   #. Decubitus ulcerations - Chronic, currently w/ wound-Vacs in place on
   two separate ulcers.
   - wound care nursing consult
   -Surgery following
   #. Paraplegia
   - cont Lovenox, holding this morning for aspiration procedure (Will
   find out why he is on this dose at rehab center.
   - cont home OxyContin, PRN Percocet / Tylenol, Ativan
   - cont home vitamins: Vit B12, iron, folate, MVI
   - cont home bowel regimen: Colace, PRN Senna / Bisacodyl / MoM
   - Nutrition consult
   .
   #. GERD - cont home PPI, PRN antacid
   .
   #. HL - cont home TriCor
   #Heme-Elevated INR can give PO vit K x 3 doses
   .
   #. FEN - NPO for procedure, o/w Regular diet, nutrition c/s, aggressive
   IVF resuscitation, replete lytes PRN
   #. Communication - with patient, girlfriend [**Name (NI) 7158**] [**Name (NI) 7159**]
   [**Telephone/Fax (1) 7160**]
   ICU Care
   Nutrition: Regular diet NPO for possible OR
   Glycemic Control:
   Lines:
   Multi Lumen - [**2105-4-20**] 06:52 AM
   Prophylaxis:
   DVT:  Lovenox
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   Attending Note:
   I was physically present with the resident team and independently
   examined the patient on this date.  I agree with the findings as
   described above including history, exam, ROS, Fam Hx and assessment and
   plan.  I would add/emphasize the following:
   History reviewed. 58 yo ex-60 py smoker, paraplegic, decubitus ulcers,
   urostomy, ostomy, LUL T2N0 poorly diff adenoCA, multiple pneumothoraces
   s/p pleurodesis  admitted with septic shock from pelvic abscess.
   Presented [**4-19**] in septic shock initially with f/c/sob and productive
   cough of white sputum, light headiness, increased thirst and nausea.
   He was febrile and tachy at NH with BP 98/60, pulse up to 180 and
   received adenosine by EMS during transport to [**Hospital1 19**].  In ED, tachy and
   hypotensive.  T 101, P 150, BP 70/40  RR 17 100% NRB and room air.
   Left IJ CVL inserted, started on neosynephrine, and given 4 L IV
   fluids.  Abdomen tender though patient reports this is at baseline.
   Labs WBC 23 with 17% bands, Cr 1.3 lactate 4.7.  UA from suprapubic
   cath shows 21wbc and bacteria.  Cultures sent, pt given vanc 22:00
   /zosyn 23:00/azithro.  CT abd/pelvis shows a fluid collection with rim
   enhancement in the right pelvis. Drain was placed by IR with drainage
   of pus [**4-20**]. Gram stain shows 3+ polys with GNRs and GPCs in pairs and
   chains.
   Overnight/day events notable for: ascess fluid positive for GPCs,
   suggestive of Strep. Blood cultures remain no growth. Episode of SVT
   yesterday with no recurrence. Labs significant for improving
   leukocytosis. Being weaned off pressors. Went to the OR for washout of
   pelvic abscess and reportedly had 300 cc of additional pus drained.
   Remains on Vanc/Zosyn - agree with d/c of azithro. Overall improving
   sepsis with shock. Respiratory status acceptable with good sats but
   concern for volume overload (LOS ~ 11 L positive including ED fluids).
   Rest of the plan as outlined above in Dr [**Last Name (STitle) 7173**]
s note. Patient is
   critically ill. Total time 35 minutes. Full code.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2105-4-21**] 18:36 ------

2105-04-22 07:20:00 Physician Resident Progress Note
Chief Complaint:
   denies pain
   24 Hour Events:
 OR SENT - At [**2105-4-21**] 02:34 PM
 OR RECEIVED - At [**2105-4-21**] 03:50 PM
   Received patient after I & D from rt hip with VAC.
   - ortho took to OR and drained 300 cc frank pus
   - d/c'd azithro
   - remained pressor dependent
   Allergies:
   Ivp Dye
   Iodine Containing
   Unknown;
   Motrin (Oral) (Ibuprofen)
   Unknown;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2105-4-21**] 08:00 AM
   Vancomycin - [**2105-4-21**] 07:59 PM
   Piperacillin/Tazobactam (Zosyn) - [**2105-4-22**] 12:05 AM
   Infusions:
   Phenylephrine - 1.2 mcg/Kg/min
   Other ICU medications:
   Omeprazole (Prilosec) - [**2105-4-21**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-4-22**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.9
C (98.5
   HR: 77 (63 - 91) bpm
   BP: 92/47(54) {77/39(50) - 105/60(71)} mmHg
   RR: 15 (9 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: -4 (-4 - 17)mmHg
   Total In:
                                                                  5,629 mL
                                                                    375 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  5,509 mL
                                                                    375 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                    890 mL
   Urine:
                                                                  1,540 mL
                                                                    890 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                  3,939 mL
                                                                   -515 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///19/
   Physical Examination
   GENERAL - NAD, comfortable
   HEENT - sclera anicteric, dry MM, OP clear
   NECK - supple, no LAD or JVD
   LUNGS - CTA bilat, no r/rh/wh
   HEART - RRR, nl S1-S2, no MRG
   ABDOMEN - +BS, soft/ND, obese, +TTP diffusely w/ voluntary guarding, no
   rebound, no HSM, ostomy intact and functional, suprapubic catheter
   intact and functional
   SKIN - multiple sacral decubitus ulcers (2 w/ wound-vacs in place),
   others w/o erythema or exudate; also ulcers on ankles bilaterally; no
   other rashes
   EXTREM - mild BLE edema, right hip vac in place
   NEURO - A&Ox3, paraplegic
   Labs / Radiology
Micro:
- 2/2 bottles [**2105-4-20**] GRAM POSITIVE COCCUS(COCCI). IN PAIRS AND LONG CHAINS.
- aspirated thigh fluid: GRAM STAIN (Final [**2105-4-20**]): 3+ PMN 4+ GRAM NEGATIVE RO
D(S).
4+ GRAM POSITIVE COCCI. IN PAIRS AND SHORT CHAINS.
- FLUID CULTURE (Preliminary): GRAM POSITIVE COCCUS(COCCI).    MODERATE GROWTH.
 SUGGESTING STREP
- surgical drainage [**4-22**]: SWAB RIGHT HIP, PURULENT DRAINAGE. 3+  POLYMORPHONUCLE
AR LEUKOCYTES. 4+ GRAM POSITIVE COCCI. IN PAIRS, CHAINS, AND CLUSTERS.
- surveillance blood cultures NGTD
   599 K/uL
   7.7 g/dL
   88 mg/dL
   0.5 mg/dL
   19 mEq/L
   4.5 mEq/L
   6 mg/dL
   111 mEq/L
   136 mEq/L
   23.4 %
   15.6 K/uL
        [image002.jpg]
                             [**2105-4-21**]  04:04 AM
                             [**2105-4-22**]  04:26 AM
   WBC
   19.3
   15.6
   Hct
   25.9
   23.4
   Plt
   546
   599
   Cr
   0.5
   0.5
   Glucose
   100
   88
   Other labs: PT / PTT / INR:15.0/30.6/1.3, Lactic Acid:1.3 mmol/L,
   Ca++:7.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERATION IN NUTRITION
   58-yo paraplegic man with decubitus ulcers with Vac drains, colostomy /
   urostomy, who presents with fever, tachycardia, and hypotension, c/w
   sepsis.
   #. Septic shock - Pt w/ fever, leukocytosis and bandemia, all
   supportive of current infection. VS abnormalities c/w septic shock. Pt
   mentating appropriately and currently w/o signs of end-organ damage.
   Infectious source not yet obvious, possibilities includes urine
   (although may be colonized given suprapubic catheter), decubitus ulcers
   (although do not appear infected on exam), pulmonary (given his
   symptoms, although CXR was clear), abdominal (given his tender abdomen,
   although no findings on CT) and right anterior thigh fluid collection.
   Most likely source is right hip/groin abscess given findings from IR
   tap, concern for joint involvement and hardware involvement. C.diff
   negative, Urine Cx neg. Blood Cx +GPCs [**12-26**].
   - cont aggressive IVF resuscitation w/ NS
   - cont vasopressor support until adequately fluid resuscitated
   - cont broad spectrum Abx: Vanc / Zosyn / pending Cx data
   - f/u blood culture, fluid aspirate, send surveillance blood cultures
   - appreciate general surgery and orthopedics consults
   - follow serial labs including lactate, chemistries, blood gases
   #. Right anterior groin collection - S/p attempted wash out of purulent
   material in OR, fluid sent for analysis. Fluid showing probable
   poly-microbial collection.
   - appreciate general surgery and orthopedics consults,
   - cont broad spectrum Abx: Vanc / Zosyn pending Cx data
   #. Decubitus ulcerations - Chronic, currently w/ wound-Vacs in place on
   two separate ulcers.
   - wound care nursing consult
   - contine to monitor for signs of infection
   - would likely be adequately covered with broad-spectrums
   #. Productive cough - Symptoms are likely upper respiratory in origin,
   and clear exam and CXR is consistent. However, given his hypovolemia
   from sepsis, a pneumonia may be missed.
   - consider CXR after adequate IVF resuscitation
   - cont home Albuterol nebs PRN
   - pneumonia would be adequately covered with broad-spectrums
   #. Abdominal pain - Chronic per patient, and symptoms are migratory in
   nature. CT with chronic findings, no acute changes.
   - appreciate general surgery recs
   - cont to monitor
   #. Paraplegia
   - cont Lovenox, holding this morning for aspiration procedure
   - cont home OxyContin, PRN Percocet / Tylenol, Ativan
   - cont home vitamins: Vit B12, iron, folate, MVI
   - cont home bowel regimen: Colace, PRN Senna / Bisacodyl / MoM
   - Nutrition consult
   #. GERD - cont home PPI, PRN antacid
   #. HL - cont home TriCor
   #. Communication - with patient, girlfriend [**Name (NI) 7158**] [**Name (NI) 7159**]
   [**Telephone/Fax (1) 7160**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2105-4-20**] 06:52 AM
   Prophylaxis:
   DVT:  lovenox
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2105-04-22 08:32:00 Physician Attending Progress Note
Chief Complaint:  Septic hip joint on right.
   Patient seen and examined history, exam, and assessment and plan
   confirmed with resident.
   24 Hour Events:
   In OR 300 cc puss, azithro dc
d, still on low dose pressors
 OR SENT - At [**2105-4-21**] 02:34 PM
 OR RECEIVED - At [**2105-4-21**] 03:50 PM
   Received patient after I & D from rt hip with VAC.
   Allergies:
   Ivp Dye
   Iodine Containing
   Unknown;
   Motrin (Oral) (Ibuprofen)
   Unknown;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2105-4-21**] 08:00 AM
   Vancomycin - [**2105-4-21**] 07:59 PM
   Piperacillin/Tazobactam (Zosyn) - [**2105-4-22**] 12:05 AM
   Infusions:
   Phenylephrine - 1.1 mcg/Kg/min
   Other ICU medications:
   Other medications:
   vanc 1g Q12
   Zosyn   4.5gm q8hr
   asorbic acid/zinc/vit A
   azithro
   Colace
   PPI
   tricor
   oxycodone 80mg po q12
   folic acid
   Iron
   MVI
   vit B12
   lovenox
   Changes to medical and family history:
   No Changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: Unremarkable
   Flowsheet Data as of  [**2105-4-22**] 08:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 36.9
C (98.5
   HR: 77 (63 - 91) bpm
   BP: 92/47(54) {77/39(50) - 103/60(71)} mmHg
   RR: 15 (9 - 21) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: -4 (-4 - 17)mmHg
   Total In:
                                                                  5,629 mL
                                                                    423 mL
   PO:
                                                                    120 mL
   TF:
   IVF:
                                                                  5,509 mL
                                                                    423 mL
   Blood products:
   Total out:
                                                                  1,690 mL
                                                                    890 mL
   Urine:
                                                                  1,540 mL
                                                                    890 mL
   NG:
   Stool:
                                                                    150 mL
   Drains:
   Balance:
                                                                  3,939 mL
                                                                   -467 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///19/
   Physical Examination
   GENERAL -  appearing male paraplegic in NAD, comfortable
   HEENT - NC/AT, PERRL/EOMI, sclera anicteric
   NECK - supple, no LAD or thyromegaly, no JVD
   LUNGS - CTA bilaterally
   HEART - RRR, nl S1-S2, no MRG
   ABDOMEN - +BS, soft/ND, obese, non tender
   SKIN - multiple sacral decubitus ulcers (2 w/ wound-vacs in place),
   others w/o erythema or exudate; also ulcers on ankles bilaterally; no
   other rashes.
   EXTREM
 [**1-27**]+BLE edema, contracted extremities
   NEURO - A&Ox3, paraplegic
   Labs / Radiology
   7.7 g/dL
   599 K/uL
   88 mg/dL
   0.5 mg/dL
   19 mEq/L
   4.5 mEq/L
   6 mg/dL
   111 mEq/L
   136 mEq/L
   23.4 %
   15.6 K/uL
        [image002.jpg]
                             [**2105-4-21**]  04:04 AM
                             [**2105-4-22**]  04:26 AM
   WBC
   19.3
   15.6
   Hct
   25.9
   23.4
   Plt
   546
   599
   Cr
   0.5
   0.5
   Glucose
   100
   88
   Other labs: PT / PTT / INR:15.0/30.6/1.3, Lactic Acid:1.3 mmol/L,
   Ca++:7.1 mg/dL, Mg++:1.9 mg/dL, PO4:2.2 mg/dL
   Micro gram 3+poly 4+ gram + pairs short chains  and Gram neg rods
   Blood 2/2 bottles gram + Cocci pairs and long chains
   No changes in Micro
   Assessment and Plan
   58-yo paraplegic man with decubitus ulcers with Vac drains, colostomy /
   urostomy, who presents with fever, tachycardia, and hypotension, c/w
   sepsis. Concerning right hip abscess as source of sepsis shock.
   #. Septic shock
 improved but still requiring low dose pressors
   - persistent hypotension-Will check cortisol and consider Stim
   - broad spectrum Abx: Vanc / Zosyn will follow up speciation and
   sensitivities of cx as he may not be fully covered will consider
   changing to [**Last Name (un) **] if clinical change
   -Check SVO2
   -Will check vanc trough.
   - f/u blood culture, fluid aspirate, C.diff
   - serial blood cx negative
   - appreciate general surgery,  orthopedics and plastics consults
   -Concern for that hardware may become infected surgery aware
   -Goal fluid status even
   #. Right anterior groin collection - S/p attempted aspiration in ED,
   fluid sent for analysis.
   -Cleaned out in OR on [**4-22**]
   #. Decubitus ulcerations - Chronic, currently w/ wound-Vacs in place on
   two separate ulcers.
   - wound care nursing consult
   -Surgery following
   #. Paraplegia
   - cont Lovenox, holding this morning for aspiration procedure (Will
   find out why he is on this dose at rehab center.
   - cont home OxyContin, PRN Percocet / Tylenol, Ativan
   - cont home vitamins: Vit B12, iron, folate, MVI
   - cont home bowel regimen: Colace, PRN Senna / Bisacodyl / MoM
   - Nutrition consult
   .
   #. GERD - cont home PPI, PRN antacid
   .
   #. HL - cont home TriCor
   #Heme-Elevated INR can give PO vit K x 3 doses
   -Hct trending down with blood from Vac site may need transfusion if Hg
   drops will transfuse 2 units with lasix to help remove extravascular
   volume.
   .
   #. FEN - Regular diet, nutrition c/s, replete lytes PRN
   #. Communication - with patient, girlfriend [**Name (NI) 7158**] [**Name (NI) 7159**]
   [**Telephone/Fax (1) 7160**]
   ICU Care
   Nutrition: regular diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2105-4-20**] 06:52 AM
   Prophylaxis:
   DVT:  Restart lovenox 30mg [**Hospital1 **] unclear why such high dose at rehab will
   clarify with rehab otherwise 40mg qday.
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   Attending Note:
   I was physically present with the resident team and independently
   examined the patient on this date.  I agree with the findings as
   described above including history, exam, ROS, Fam Hx and assessment and
   plan.  I would add/emphasize the following:
   History reviewed. 58 yo ex-60 py smoker, paraplegic, decubitus ulcers,
   urostomy, ostomy, LUL T2N0 poorly diff adenoCA, multiple pneumothoraces
   s/p pleurodesis  admitted with septic shock from pelvic abscess.
   Presented [**4-19**] in septic shock initially with f/c/sob and productive
   cough of white sputum, light headiness, increased thirst and nausea.
   He was febrile and tachy at NH with BP 98/60, pulse up to 180 and
   received adenosine by EMS during transport to [**Hospital1 19**].  In ED, tachy and
   hypotensive.  T 101, P 150, BP 70/40  RR 17 100% NRB and room air.
   Left IJ CVL inserted, started on neosynephrine, and given 4 L IV
   fluids.  Abdomen tender though patient reports this is at baseline.
   Labs WBC 23 with 17% bands, Cr 1.3 lactate 4.7.  UA from suprapubic
   cath shows 21wbc and bacteria.  Cultures sent, pt given vanc 22:00
   /zosyn 23:00/azithro.  CT abd/pelvis shows a fluid collection with rim
   enhancement in the right pelvis. Drain was placed by IR with drainage
   of pus [**4-20**]. Gram stain shows 3+ polys with GNRs and GPCs in pairs and
   chains.
   Overnight/day events notable for: strep from abscess (and per micro the
   strep isolated in the BC) is now speciated as S anginosis.
   Sensitivities usually not run on this due to usually exquisite
   sensitivity to PCN.
   Exam as above. Awake, alert, oriented. Chest clear ant/lat, S1S2 reg,
   no murmurs, abd 2+ pitting LE edema.
   Labs, meds reviewed.
   Episode of SVT [**4-20**] with no recurrence. Labs significant for improving
   leukocytosis, creat. Still on pressors. Went to the OR yesterday for
   washout of pelvic abscess with 300 cc of additional pus drained.
   Remains on Vanc/Zosyn. Overall improving sepsis with continued shock,
   likely still septic. Respiratory status acceptable with good sats but
   concern for volume overload (LOS ~ 15 L positive including ED fluids).
   Management of strep mileri was reviewed. It is unusual for small colony
   S mileri to cause endocarditis (but micro not able to tell us small vs
   large). It is indicated to obtain an echo to r/o endocarditis -
   ordered. We also decided to give a dose of Gent for synergy given
   persistent shock. Cortisol 11
 will check ACTH stim test.
   Rest of the plan as outlined above in Dr [**Last Name (STitle) 7173**]
s note. Patient is
   critically ill. Total time 35 minutes. Full code.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2105-4-22**] 14:23 ------

2105-04-23 07:20:00 Physician Resident Progress Note
Chief Complaint: c/o back pain
   24 Hour Events:
   - growing strep agninosus (strep milleri group) in thigh fluid and
   blood; sensitivity still pending
   - gave gent x1
   - vanco trough theraputic at 19
   - TTE: mild MR, no vegitations, o/w normal
   - cortisol 11 (equivocal), so performed [**Last Name (un) 402**] stim test: 9 --> 19.9
   - TSH 1.5 (wnl), fT4 0.76 (0.93-1.7)
   - plastics saw pt, report that sacral decub communicates with area of
   thigh abscess and bone looks c/w osteomyelitis, recc IV abx x 6 weeks,
   also Vac changes q3-4 days
   - ortho reccs washout again Friday, possibly also Vac change then
   - resumed outpt lovenox 30mg [**Hospital1 7**]
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   History obtained from [**Hospital 15**] Medical recordsIvp Dye
   Iodine Containing
   Unknown;
   Motrin (Oral) (Ibuprofen)
   Unknown;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2105-4-21**] 08:00 AM
   Gentamicin - [**2105-4-22**] 02:00 PM
   Vancomycin - [**2105-4-22**] 08:29 PM
   Piperacillin/Tazobactam (Zosyn) - [**2105-4-23**] 12:11 AM
   Infusions:
   Phenylephrine - 0.8 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-4-23**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.5
   HR: 59 (59 - 82) bpm
   BP: 109/63(75) {67/43(49) - 139/94(107)} mmHg
   RR: 12 (12 - 20) insp/min
   SpO2: 98%
   Heart rhythm: SB (Sinus Bradycardia)
   Height: 72 Inch
    CVP: 4 (1 - 19)mmHg
   Total In:
                                                                  2,093 mL
                                                                    309 mL
   PO:
                                                                    360 mL
   TF:
   IVF:
                                                                  1,733 mL
                                                                    309 mL
   Blood products:
   Total out:
                                                                  2,670 mL
                                                                  1,200 mL
   Urine:
                                                                  2,670 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -577 mL
                                                                   -891 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///22/
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   552 K/uL
   7.9 g/dL
   131 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.8 mEq/L
   5 mg/dL
   108 mEq/L
   137 mEq/L
   24.3 %
   11.8 K/uL
        [image002.jpg]
                             [**2105-4-21**]  04:04 AM
                             [**2105-4-22**]  04:26 AM
                             [**2105-4-22**]  04:54 PM
                             [**2105-4-23**]  03:18 AM
   WBC
   19.3
   15.6
   15.5
   11.8
   Hct
   25.9
   23.4
   25.7
   24.3
   Plt
   546
   599
   723
   552
   Cr
   0.5
   0.5
   0.5
   Glucose
   100
   88
   131
   Other labs: PT / PTT / INR:15.0/30.6/1.3, Lactic Acid:1.3 mmol/L,
   Ca++:7.1 mg/dL, Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Fluid analysis / Other labs: Vanc trough: 19
   Am cortisol: 11
   Random: 9
   [**Last Name (un) **] stim: 19.9
   Imaging: ECHO:Suboptimal image quality. Mild thickening of the mitral
   leaflets with mild mitral regurgitation. No discrete vegetation
   identified. Preserved global and regional biventricular systolic
   function.
   If the clinical suspicion of endocarditis is moderate or high, a TEE is
   suggested to better define the mitral valve.
   Microbiology: Blood cx [**4-19**]: 2/2 bottles strep anginosus
   Abcess cx [**4-20**]: strep anginosus
   OR culture [**4-21**]: GPC
   Femur path: pending
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERATION IN NUTRITION
   58-yo paraplegic man with decubitus ulcers with Vac drains, colostomy /
   urostomy, who presents with fever, tachycardia, and hypotension, c/w
   sepsis.
   #. Septic shock
 Ongoing septic shock, unable to wean from pressors
   although dose is [**Month (only) **], Svo2 87 c/w poor perfusion. No further fevers and
   WBC is [**Month (only) **] which does suggest some improvement. Patient has been
   mentating well. Did appear to have reduced GFR which has now improved.
   Source is right hip wound growing strep arginosus and secondary
   bacteremia in [**1-26**] on admission. Bacteremia has cleared. TTE showed no
   vegetation but poor study. Pt is s/p washout in OR but there are plans
   for repeat washout tomorrow. It is concerning that the patient has
   still not been able to come of pressors. Etiologies include inadequate
   abx, inadequate source control with ongoing bacteremia, adrenal
   insuficiency. Inadequate abx is still possible as sensitivities are
   still being done; however,  Vanc levsl are adequate and strep milleri
   group should be sensitive to PCN and Vanc. The patient was given one
   dose of gent.  Inadequate source control seems unlikely as pt has had
   wash out, has wound vacs in place and as there is no vegetation on echo
   to suggest ongoing endovascular sourse
 may consider TEE but
   endocarditis is rare in strep milleri particularly with small colony
   strep ( which is what the patient
s presentation is most c/w).
   Cortisol levels have been checked as well as [**Last Name (un) 402**] stim and is nl r/o
   adrenal insufficiency. TSH is also normal. Of note, patient is making a
   lot of  urine
 200cc/hr- which raises the question if post-ATN
   diuresis is making him intravascularly dry.
   - cont vasopressor support until adequately fluid resuscitated
   - check Vanc level troughs
   - f/u blood culture, fluid aspirate, send surveillance blood cultures
   - appreciate general surgery and orthopedics consults
   - follow serial labs including lactate, chemistries, blood gases
   #. Right anterior groin collection
 Decubitous ulcer communicateds
   with groin collection per plastics. S/p wash out of purulent material
   in OR, fluid sent for analysis. Fluid showing probable poly-microbial
   collection.
   - appreciate general surgery and orthopedics consults,
   - will need repeat OR later this week
   # Anemia:
   - repeat HCT in PM, transfuse for Hg <7
   #. Decubitus ulcerations - Chronic, currently w/ wound-Vacs in place on
   two separate ulcers.
   - appreciate plastics involvment
   - wound care nursing consult
   - contine to monitor for signs of infection
   - would likely be adequately covered with broad-spectrums
   #. Productive cough - Symptoms are likely upper respiratory in origin,
   and clear exam and CXR is consistent. However, given his hypovolemia
   from sepsis, a pneumonia may be missed.
   - consider CXR after adequate IVF resuscitation
   - cont home Albuterol nebs PRN
   - pneumonia would be adequately covered with broad-spectrums
   #. Abdominal pain - Chronic per patient, and symptoms are migratory in
   nature. CT with chronic findings, no acute changes.
   - appreciate general surgery recs
   - cont to monitor
   #. Paraplegia
   - cont Lovenox [**Hospital1 **] will likeley need to hold for OR tomorrow but will
   touch base with ortho
   - cont home OxyContin, PRN Percocet / Tylenol, Ativan
   - cont home vitamins: Vit B12, iron, folate, MVI
   - cont home bowel regimen: Colace, PRN Senna / Bisacodyl / MoM
   - Nutrition consult
   #. GERD - cont home PPI, PRN antacid
   #. HL - cont home TriCor
   #. Communication - with patient, girlfriend [**Name (NI) 7158**] [**Name (NI) 7159**]
   [**Telephone/Fax (1) 7160**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2105-4-20**] 06:52 AM
   Prophylaxis:
   DVT: lovenox 30mg [**Hospital1 7**]
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2105-04-23 08:01:00 Physician Attending Progress Note
Chief Complaint:  Septic hip joint on right.
   Patient seen and examined history, exam, and assessment and plan
   confirmed with resident.
   24 Hour Events:
   Complaining of lower back pain
   Growing Sterp Mileri in wound and blood.
   received one dose of Gent
   TTE-remarkable for mild MR
   Cortisol 11 stim 19.9
   TSH 1.5
   Plastics saw patient and felt it communicated to hip abscess and
   visualized bone.  Vac changes.
   Ortho recommended Washout tomorrow.
   Still with pressor requirement.  Maps down to 50 systolic down to 76
   when pressor was off.
   Allergies:
   Ivp Dye
   Iodine Containing
   Unknown;
   Motrin (Oral) (Ibuprofen)
   Unknown;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2105-4-21**] 08:00 AM
   Gentamicin - [**2105-4-22**] 02:00 PM
   Vancomycin - [**2105-4-22**] 08:29 PM
   Piperacillin/Tazobactam (Zosyn) - [**2105-4-23**] 12:11 AM
   Infusions:
   Phenylephrine - 0.8 mcg/Kg/min
   Other ICU medications:
   Other medications:
   vanc 1g Q12 Day #4
   Zosyn   4.5gm q8hr #4
   Gentamycin 120MG  DOSE YESTERDAY
   asorbic acid/zinc/vit A
   Colace
   PPI
   tricor
   oxycodone 80mg po q12
   folic acid
   Iron
   MVI
   vit B12
   lovenox 30mg SQ [**Hospital1 **]
   Changes to medical and family history:
   No changes
   Review of systems is unchanged from admission except as noted below
   Review of systems: Back Pain
   Flowsheet Data as of  [**2105-4-23**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.5
   HR: 60 (59 - 82) bpm
   BP: 107/57(70) {67/43(49) - 139/94(107)} mmHg
   RR: 13 (12 - 20) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 16 (1 - 19)mmHg
   Total In:
                                                                  2,093 mL
                                                                    332 mL
   PO:
                                                                    360 mL
   TF:
   IVF:
                                                                  1,733 mL
                                                                    332 mL
   Blood products:
   Total out:
                                                                  2,670 mL
                                                                  1,200 mL
   Urine:
                                                                  2,670 mL
                                                                  1,200 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -577 mL
                                                                   -868 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 96%
   ABG: ///22/
   Physical Examination
   GENERAL -  appearing male paraplegic in NAD, comfortable
   HEENT - NC/AT, PERRL/EOMI, sclera anicteric
   NECK - supple, no LAD or thyromegaly, no JVD
   LUNGS - CTA bilaterally
   HEART - RRR, nl S1-S2, no MRG
   ABDOMEN - +BS, soft/ND, obese, non tender
   SKIN - multiple sacral decubitus ulcers (2 w/ wound-vacs in place),
   others w/o erythema or exudate; also ulcers on ankles bilaterally; no
   other rashes.
   EXTREM
 [**1-27**]+BLE edema, contracted extremities
   NEURO - A&Ox3, paraplegic
   Labs / Radiology
   7.9 g/dL
   552 K/uL
   131 mg/dL
   0.5 mg/dL
   22 mEq/L
   4.8 mEq/L
   5 mg/dL
   108 mEq/L
   137 mEq/L
   24.3 %
   11.8 K/uL
        [image002.jpg]
                             [**2105-4-21**]  04:04 AM
                             [**2105-4-22**]  04:26 AM
                             [**2105-4-22**]  04:54 PM
                             [**2105-4-23**]  03:18 AM
   WBC
   19.3
   15.6
   15.5
   11.8
   Hct
   25.9
   23.4
   25.7
   24.3
   Plt
   546
   599
   723
   552
   Cr
   0.5
   0.5
   0.5
   Glucose
   100
   88
   131
   Other labs: PT / PTT / INR:15.0/30.6/1.3, Lactic Acid:1.3 mmol/L,
   Ca++:7.1 mg/dL, Mg++:1.7 mg/dL, PO4:2.4 mg/dL
   Vanc trough 19
   Micro-Blood [**1-26**] strep mileri
   Survelence cx 27-30 all negative
   Abscess-Growing strep and GPC from OR.  Femor path pending.
   Gram stain first drain-had gram negative rods.
   Assessment and Plan
   58-yo paraplegic man with decubitus ulcers with Vac drains, colostomy /
   urostomy, who presents with fever, tachycardia, and hypotension, c/w
   sepsis. Concerning right hip abscess as source of sepsis shock.
   #. Septic shock
 improved but still requiring low dose pressors
   - persistent hypotension- Unclear etiology suspect infectious will
   check both arms and consider a-line to confirm that the hypotension is
   real given normal mentation and good urine output and improved labs.
   -Cortisol with borderline stim
   #ID Polymicrobial hip Abscess and osteo.  Growing step and gram stain
   with gram neg rods.
   -Will consult ID for optimal abx regimen for polymicrobial osteo.
   - serial blood cx negative
   s/pclean out in OR on [**4-22**] Going back tomorrow
   #. Decubitus ulcerations - Chronic, currently w/ wound-Vacs in place on
   two separate ulcers.
   - wound care nursing consult
   -Surgery following going to the OR tomorrow
   #. Paraplegia
   - cont Lovenox, holding this morning for aspiration procedure (Will
   find out why he is on this dose at rehab center.
   - cont home OxyContin, PRN Percocet / Tylenol, Ativan
   - cont home vitamins: Vit B12, iron, folate, MVI
   - cont home bowel regimen: Colace, PRN Senna / Bisacodyl / MoM
   - Nutrition consult
   .
   #. GERD - cont home PPI, PRN antacid
   .
   #. HL - cont home TriCor
   #Heme-Elevated INR corrected
   Hct stable
   .
   #. FEN - Regular diet, nutrition c/s, replete lytes PRN
   #. Communication - with patient, girlfriend [**Name (NI) 7158**] [**Name (NI) 7159**]
   [**Telephone/Fax (1) 7160**]
   ICU Care
   Nutrition: Regular diet
   Glycemic Control:
   Lines:
   Multi Lumen - [**2105-4-20**] 06:52 AM
   Prophylaxis:
   DVT:  Lovenox
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   Attending Note:
   I was physically present with the resident team and independently
   examined the patient on this date.  I agree with the findings as
   described above including history, exam, ROS, Fam Hx and assessment and
   plan.  I would add/emphasize the following:
   History reviewed. 58 yo ex-60 py smoker, paraplegic, decubitus ulcers,
   urostomy, ostomy, LUL T2N0 poorly diff adenoCA, multiple pneumothoraces
   s/p pleurodesis  admitted with septic shock likely from pelvic abscess.
   CT abd/pelvis showed a 6 cm in diameter fluid collection with rim
   enhancement in the right pelvis. Drain was placed by IR with drainage
   of pus [**4-20**]. Gram stain shows 3+ polys with GNRs and GPCs in pairs and
   chains, grew S mileri sensitive to PCN.
   Episode of SVT [**4-20**] with no recurrence. Labs significant for improving
   leukocytosis, creat. Still on pressors. Went to the OR [**4-21**] for washout
   of pelvic abscess with 300 cc of additional pus drained.
   Overnight/day events notable for: TTE limited views but normal
   biventricular function, no vegetations seen. ACTH stim test showed
   cortisol increase from 11 to 20. Pt was seen by plastics
 high
   suspicion for osteo. TSH 1.5.
   Exam as above. Awake, alert, oriented. Chest clear ant/lat, S1S2 reg,
   no audible murmurs, abd 2+ pitting LE edema.
   Labs, meds reviewed. LOS positive 9.2 L.
   IMP: ongoing shock, at this point more likely hypovolemic given 3 days
   of appropriate antibiotic coverage and high urine output/low CVP.
   Will first hydrate with IVF. If hypotension persists, will likely add
   stress dose steroids, possibly switch pressor to Vasopressin. Remains
   on Vanc/Zosyn. Respiratory status acceptable with good sats but concern
   for volume overload.
   ID
s input is appreciated. Will likely require 6 week course of
   Ceftriaxone /Flagyl once discharged. He will also need to be reassessed
   for skin flap.
   Rest of the plan as outlined above in Dr [**Last Name (STitle) 7173**]
s note.
   Patient is critically ill. Total time 40 minutes. Full code.
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Last Name (NamePattern1) **], MD
   on:[**2105-4-23**] 16:57 ------

2105-04-24 07:46:00 Physician Resident Progress Note
Chief Complaint: sepsis
   24 Hour Events:
   [**4-23**]:
   - ID reccs: dc gent; obtain repeat Cx in OR, ESR/CRP, obtain MRI, send
   C.diff and sputum will likely switch to CTX and Flagy but keep
   Vanc/Zosyn for now
   - per home facility, BP's nl in 110-120/80's
   - CVP low 4, gave one liter bolus with improved BP -> trended down on
   neo, but still on neo
   History obtained from Patient
   Allergies:
   History obtained from PatientIvp Dye
   Iodine Containing
   Unknown;
   Motrin (Oral) (Ibuprofen)
   Unknown;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2105-4-21**] 08:00 AM
   Gentamicin - [**2105-4-23**] 12:45 PM
   D 5 Vancomycin - [**2105-4-23**] 08:00 PM
   D 5 Piperacillin/Tazobactam (Zosyn) - [**2105-4-24**] 02:02 AM
   Infusions:
   Phenylephrine - 0.6 mcg/Kg/min
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2105-4-23**] 08:00 AM
   Omeprazole (Prilosec) - [**2105-4-23**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-4-24**] 07:40 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 68 (62 - 90) bpm
   BP: 106/53(65) {80/40(50) - 120/59(74)} mmHg
   RR: 16 (11 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 13 (5 - 26)mmHg
   Total In:
                                                                  4,293 mL
                                                                    288 mL
   PO:
                                                                    550 mL
   TF:
   IVF:
                                                                  3,743 mL
                                                                    288 mL
   Blood products:
   Total out:
                                                                  3,810 mL
                                                                  1,460 mL
   Urine:
                                                                  3,810 mL
                                                                  1,460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    483 mL
                                                                 -1,172 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   GEN: pleasant, alert
   HEENT: MM dry
   Cor: RRR, no murmurs
   Pulm: clear biltarally
   Abd: ostomy with scant drainage but lots of gas, sharp LLQ abd pain, no
   rebound/guarding
   Ext: 2+ edema
   Labs / Radiology
   689 K/uL
   7.4 g/dL
   91 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.1 mEq/L
   3 mg/dL
   107 mEq/L
   139 mEq/L
   23.8 %
   12.7 K/uL
        [image002.jpg]
                             [**2105-4-21**]  04:04 AM
                             [**2105-4-22**]  04:26 AM
                             [**2105-4-22**]  04:54 PM
                             [**2105-4-23**]  03:18 AM
                             [**2105-4-24**]  03:30 AM
   WBC
   19.3
   15.6
   15.5
   11.8
   12.7
   Hct
   25.9
   23.4
   25.7
   24.3
   23.8
   Plt
   546
   599
   723
   552
   689
   Cr
   0.5
   0.5
   0.5
   0.5
   Glucose
   100
   88
   131
   91
   Other labs: PT / PTT / INR:14.2/29.3/1.2, Differential-Neuts:57.0 %,
   Band:1.0 %, Lymph:26.0 %, Mono:7.0 %, Eos:5.0 %, Lactic Acid:1.3
   mmol/L, Ca++:7.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   Microbiology: [**2105-4-20**] 11:40 am ABSCESS
      GRAM STAIN (Final [**2105-4-20**]):
         3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         4+   (>10 per 1000X FIELD):   GRAM NEGATIVE ROD(S).
         4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS AND SHORT CHAINS.
         SMEAR REVIEWED; RESULTS CONFIRMED.
      FLUID CULTURE (Preliminary):
         STREPTOCOCCUS ANGINOSUS (MILLERI) GROUP.    MODERATE GROWTH.
            SENSITIVITIES REQUESTED PER DR. [**Last Name (STitle) **] #[**Numeric Identifier 7250**] [**2105-4-22**].
            Sensitivity testing performed by Sensititre.
                                 SENSITIVITIES: MIC expressed in MCG/ML
   _________________________________________________________
                                STREPTOCOCCUS ANGINOSUS (MILLERI) GROUP
                                |
   CLINDAMYCIN-----------   =>2 R
   ERYTHROMYCIN----------   =>4 R
   PENICILLIN G----------  0.06 S
   [**2105-4-21**] 3:25 pm SWAB      RIGHT HIP, PURULENT DRAINAGE.
      GRAM STAIN (Final [**2105-4-21**]):
         3+  (5-10 per 1000X FIELD):   POLYMORPHONUCLEAR LEUKOCYTES.
         4+   (>10 per 1000X FIELD):   GRAM POSITIVE COCCI.
                                       IN PAIRS, CHAINS, AND CLUSTERS.
         SMEAR REVIEWED; RESULTS CONFIRMED.
      WOUND CULTURE (Final [**2105-4-23**]):
         BETA STREPTOCOCCUS NOT GROUP A OR B.    SPARSE GROWTH.
      ANAEROBIC CULTURE (Preliminary):    NO ANAEROBES ISOLATED
   Blood Cx 4/27,28, 29, 30: NGTD
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERATION IN NUTRITION
   58-yo paraplegic man with decubitus ulcers with Vac drains, colostomy /
   urostomy, who presents with fever, tachycardia, and hypotension, c/w
   sepsis.
   #. Septic shock
 Ongoing septic shock, unable to wean from pressors
   although dose is [**Month (only) **], Svo2 87 c/w poor perfusion. No further fevers and
   WBC is [**Month (only) **] which does suggest some improvement. Patient has been
   mentating well. Did appear to have reduced GFR which has now improved.
   Source is right hip wound growing strep arginosus and secondary
   bacteremia in [**1-26**] on admission. Bacteremia has cleared. TTE showed no
   vegetation but poor study. Pt is s/p washout in OR but there are plans
   for repeat washout tomorrow. It is concerning that the patient has
   still not been able to come of pressors. Etiologies include inadequate
   abx, inadequate source control with ongoing bacteremia, adrenal
   insuficiency. Inadequate abx is still possible as sensitivities are
   still being done; however, Vanc levels are adequate and strep milleri
   group should be sensitive to PCN and Vanc. The patient was given one
   dose of gent.  Inadequate source control seems unlikely as pt has had
   wash out, has wound vacs in place and as there is no vegetation on echo
   to suggest ongoing endovascular sourse
 may consider TEE but
   endocarditis is rare in strep milleri particularly with small colony
   strep ( which is what the patient
s presentation is most c/w).
   Cortisol levels have been checked as well as [**Last Name (un) 402**] stim and is nl r/o
   adrenal insufficiency. TSH is also normal. Of note, patient is making a
   lot of urine
 200cc/hr- which raises the question if post-ATN diuresis
   is making him intravascularly dry.
   - cont vasopressor support for now
   - Per ID, will cont Vanc/Zosyn for now, but may transition to
   CTX/Flagyl
   - f/u cx data
   - appreciate general surgery and orthopedics consults
   - follow serial labs including lactate, chemistries, blood gases
   #. Right anterior groin collection
 Decubitous ulcer communicateds
   with groin collection per plastics. S/p wash out of purulent material
   in OR, fluid sent for analysis. Fluid showing probable poly-microbial
   collection.
   - appreciate general surgery and orthopedics consults,
   - Ortho to take back to OR today for another washout
   - NPO after MN and hold AM dose of lovenox
   # Anemia:
   - repeat HCT in PM, transfuse for Hg <7
   #. Decubitus ulcerations - Chronic, currently w/ wound-Vacs in place on
   two separate ulcers.
   - appreciate plastics involvment
   - wound care nursing consult
   - contine to monitor for signs of infection
   - would likely be adequately covered with broad-spectrums
   #. Productive cough - Symptoms are likely upper respiratory in origin,
   and clear exam and CXR is consistent. However, given his hypovolemia
   from sepsis, a pneumonia may be missed.
   - consider CXR after adequate IVF resuscitation
   - cont home Albuterol nebs PRN
   #. Abdominal pain - Chronic per patient, and symptoms are migratory in
   nature. CT with chronic findings, no acute changes.
   - simethicone PRN
   - appreciate general surgery recs
   - cont to monitor
   #. Paraplegia
   - cont Lovenox [**Hospital1 **] will  need to hold for OR tomorrow
   - cont home OxyContin, PRN Percocet / Tylenol, Ativan
   - cont home vitamins: Vit B12, iron, folate, MVI
   - cont home bowel regimen: Colace, PRN Senna / Bisacodyl / MoM
   - Nutrition consult
   #. GERD - cont home PPI, PRN antacid
   #. HL - cont home TriCor
   #. Communication - with patient, girlfriend [**Name (NI) 7158**] [**Name (NI) 7159**]
   [**Telephone/Fax (1) 7160**]
   ICU Care
   Nutrition: PO + ensure
   Glycemic Control:
   Lines:
   Multi Lumen - [**2105-4-20**] 06:52 AM
   Prophylaxis:
   DVT:  lovenox
   Stress ulcer:  PPI at home
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2105-04-24 07:54:00 Physician Attending Progress Note
Patient seen and examined history, exam, and assessment and plan
   confirmed with resident.
   Chief Complaint: Septic hip joint on right.
   HPI: 58-yo paraplegic man with decubitus ulcers with Vac drains,
   colostomy / urostomy, who presents with fever, tachycardia, and
   hypotension, c/w sepsis secondary right hip abscess growing strep m.
   and gram stain with gram neg rods..
   24 Hour Events:
   ID recommended d
c gent send C.Diff, cont vanc/zosyn for now with goal
   of cefftriaxone and flagy.
   received 1L fluid with transient improvement in BP.
   received 25mg  hydrocortisone at 8am
   reports LLQ pain but states he has had that pain over the last 30
   years.
   Allergies:
   Ivp Dye
   Iodine Containing
   Unknown;
   Motrin (Oral) (Ibuprofen)
   Unknown;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Azithromycin - [**2105-4-21**] 08:00 AM
   Gentamicin - [**2105-4-23**] 12:45 PM
   Vancomycin - [**2105-4-23**] 08:00 PM
   Piperacillin/Tazobactam (Zosyn) - [**2105-4-24**] 02:02 AM
   Infusions:
   Phenylephrine - 0.4 mcg/Kg/min
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2105-4-23**] 08:00 AM
   Omeprazole (Prilosec) - [**2105-4-23**] 08:00 AM
   Other medications:
   vanc 1g Q12 Day #5
   Zosyn   4.5gm q8hr #5
   Hydrocortisone 25 mg IV Q8
   asorbic acid/zinc/vit A
   Colace
   PPI
   tricor
   oxycodone 80mg po q12
   folic acid
   Iron
   MVI
   vit B12
   lovenox 30mg SQ [**Hospital1 **]
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-4-24**] 07:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 68 (62 - 90) bpm
   BP: 106/53(65) {80/40(50) - 120/59(74)} mmHg
   RR: 16 (11 - 20) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 13 (5 - 26)mmHg
   Total In:
                                                                  4,293 mL
                                                                    296 mL
   PO:
                                                                    550 mL
   TF:
   IVF:
                                                                  3,743 mL
                                                                    296 mL
   Blood products:
   Total out:
                                                                  3,810 mL
                                                                  1,460 mL
   Urine:
                                                                  3,810 mL
                                                                  1,460 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    483 mL
                                                                 -1,164 mL
                                                            200cc/hr
   Respiratory support
   O2 Delivery Device: None
   SpO2: 99%
   ABG: ///26/
   Physical Examination
   GENERAL -  appearing male paraplegic in NAD, comfortable
   HEENT - NC/AT, PERRL/EOMI, sclera anicteric, dry MM
   NECK - supple, no LAD or thyromegaly, no JVD
   LUNGS - CTA bilaterally
   HEART - RRR, nl S1-S2, no MRG
   ABDOMEN - +BS, soft/ND, obese, tender LLQ
   SKIN - multiple sacral decubitus ulcers (2 w/ wound-vacs in place),
   others w/o erythema or exudate; also ulcers on ankles bilaterally; no
   other rashes.
   EXTREM
 [**1-27**]+BLE edema, contracted extremities
   NEURO - A&Ox3, paraplegic
   Labs / Radiology: No films
   7.4 g/dL
   689 K/uL
   91 mg/dL
   0.5 mg/dL
   26 mEq/L
   4.1 mEq/L
   3 mg/dL
   107 mEq/L
   139 mEq/L
   23.8 %
   12.7 K/uL
        [image002.jpg]
                             [**2105-4-21**]  04:04 AM
                             [**2105-4-22**]  04:26 AM
                             [**2105-4-22**]  04:54 PM
                             [**2105-4-23**]  03:18 AM
                             [**2105-4-24**]  03:30 AM
   WBC
   19.3
   15.6
   15.5
   11.8
   12.7
   Hct
   25.9
   23.4
   25.7
   24.3
   23.8
   Plt
   546
   599
   723
   552
   689
   Cr
   0.5
   0.5
   0.5
   0.5
   Glucose
   100
   88
   131
   91
   Other labs: PT / PTT / INR:14.2/29.3/1.2, Differential-Neuts:57.0 %,
   Band:1.0 %, Lymph:26.0 %, Mono:7.0 %, Eos:5.0 %, Lactic Acid:1.3
   mmol/L, Ca++:7.2 mg/dL, Mg++:2.0 mg/dL, PO4:2.3 mg/dL
   No new micro
   Micro-Blood [**1-26**] strep mileri
   Survelence cx 27-30 all negative
   Abscess-Growing strep and GPC from OR.  Femor path pending.
   Gram stain first drain-had gram negative rods.
   Assessment and Plan
   58-yo paraplegic man with decubitus ulcers with Vac drains, colostomy /
   urostomy, who presents with fever, tachycardia, and hypotension, c/w
   sepsis. Concerning right hip abscess as source of sepsis shock.
   #. Septic shock
 improved but still requiring low dose pressors
   received Hydrocort today.
   - persistent hypotension- did not respond to fluid
   -Cortisol with borderline stim received hydrocort at 8am will follow.
   #ID Polymicrobial hip Abscess and osteo.  Growing step and gram stain
   with gram neg rods.
   -Will consult ID for optimal abx regimen for polymicrobial osteo.
   - serial blood cx negative
   s/pclean out in OR on [**4-22**] Going back today
   -Continue current abx [**First Name8 (NamePattern2) **] [**Location (un) **] based on final cx
   -ID rec MRI of brain to rule out abscess from strep will follow no
   neuro changes and will ask family if any changes in baseline.
   #. Decubitus ulcerations - Chronic, currently w/ wound-Vacs in place on
   two separate ulcers.
   - wound care nursing consult
   -Surgery following going to the OR today
   #. Paraplegia
   - cont Lovenox, holding this morning for procedure.
   - cont home OxyContin, PRN Percocet / Tylenol, Ativan
   - cont home vitamins: Vit B12, iron, folate, MVI
   - cont home bowel regimen: Colace, PRN Senna / Bisacodyl / MoM
   - Nutrition consult
   .
   #. GERD - cont home PPI, PRN antacid
   .
   #. HL - cont home TriCor
   #Heme-Elevated INR corrected
   Hct stable
   .
   #. FEN - Regular diet NPO for procedure, nutrition c/s, replete lytes
   PRN
   -Will bolus for increase pressor or decreased urine output.
   #. Communication - with patient, girlfriend [**Name (NI) 7158**] [**Name (NI) 7159**]
   [**Telephone/Fax (1) 7160**]
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2105-4-20**] 06:52 AM
   Prophylaxis:
   DVT:  Lovenox
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU pending wean of pressor
   Total time spent:
   Attending Note:
   I was physically present with the resident team and independently
   examined the patient on this date.  I agree with the findings as
   described above including history, exam, ROS, Fam Hx and assessment and
   plan.  I would add/emphasize the following:
   History reviewed. 58 yo ex-60 py smoker, paraplegic, decubitus ulcers,
   urostomy, ostomy, LUL T2N0 poorly diff adenoCA, multiple pneumothoraces
   s/p pleurodesis admitted with septic shock likely from pelvic abscess.
   CT abd/pelvis showed a 6 cm in diameter fluid collection with rim
   enhancement in the right pelvis. Drain was placed by IR with drainage
   of pus [**4-20**]. Gram stain shows 3+ polys with GNRs and GPCs in pairs and
   chains, grew S mileri sensitive to PCN.
   Episode of SVT [**4-20**] with no recurrence. Labs significant for improving
   leukocytosis, creat. Still on pressors. Went to the OR [**4-21**] for washout
   of pelvic abscess with 300 cc of additional pus drained, and washed out
   again today
 reportedly no pus.
   Overnight/day events notable for: washout in OR today, swab from wound
   and bone sent for culture.
   TTE [**4-23**] showed limited views but normal biventricular function, no
   vegetations seen. ACTH stim test showed cortisol increase from 11 to
   20.
   Exam unchanged. Awake, alert, oriented. Chest clear ant/lat, S1S2 reg,
   no audible murmurs, abd 2+ pitting LE edema.
   Labs, meds reviewed. Fluid balance 0.5 L positive.
   IMP: ongoing shock, at this point more likely hypovolemic given 4 days
   of appropriate antibiotic coverage and high urine output/low CVP
   yesterday, possibly adrenal insufficiency.
   Will continue to hydrate with IVF (keeping up with urine losses if
   possible), add HC 50 mg q6h. If hypotension persists, consider adding
   to Vasopressin. Remains on Vanc/Zosyn. Respiratory status acceptable
   with good sats but watch for volume overload.
   ID
s input appreciated. Will likely require 6 week course of
   Ceftriaxone /Flagyl once discharged. He will also eventually need to be
   reassessed for skin flap.
   Rest of the plan as outlined above in Dr [**Last Name (STitle) 7173**]
s note.
   Patient is critically ill. Total time 33 minutes. Full code.

2105-04-25 08:01:00 Physician Resident Progress Note
TITLE:
   Chief Complaint:
   24 Hour Events:
 OR SENT - At [**2105-4-24**] 12:20 PM
    For Rt hip wash out
 OR RECEIVED - At [**2105-4-24**] 02:00 PM
   I & D rt hip & wound VAC placed.
   - went to OR for additional washout and bone/fluid sent for micro
   - still unable to wean neo, attempted additional fluid boluses
   - received 25 IV then 50 IV hydrocort with no improvement in BP (CVP at
   the time was 17)
   Allergies:
   Ivp Dye
   Iodine Containing
   Unknown;
   Motrin (Oral) (Ibuprofen)
   Unknown;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2105-4-23**] 12:45 PM
   Vancomycin - [**2105-4-24**] 08:31 PM
   Piperacillin/Tazobactam (Zosyn) - [**2105-4-25**] 02:00 AM
   Infusions:
   Phenylephrine - 0.3 mcg/Kg/min
   Other ICU medications:
   Omeprazole (Prilosec) - [**2105-4-24**] 08:00 AM
   Enoxaparin (Lovenox) - [**2105-4-24**] 08:12 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-4-25**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.6
C (97.8
   HR: 56 (56 - 93) bpm
   BP: 126/53(71) {76/40(48) - 137/66(84)} mmHg
   RR: 12 (10 - 18) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
    CVP: 4 (-21 - 19)mmHg
   Total In:
                                                                  3,795 mL
                                                                    250 mL
   PO:
                                                                     50 mL
   TF:
   IVF:
                                                                  3,745 mL
                                                                    250 mL
   Blood products:
   Total out:
                                                                  4,250 mL
                                                                    450 mL
   Urine:
                                                                  3,475 mL
                                                                    450 mL
   NG:
   Stool:
                                                                    275 mL
   Drains:
                                                                    500 mL
   Balance:
                                                                   -455 mL
                                                                   -200 mL
   Respiratory support
   O2 Delivery Device: None
   SpO2: 98%
   ABG: ///24/
   Physical Examination
   GEN: pleasant, alert
   HEENT: MM dry
   Cor: RRR, no murmurs
   Pulm: clear biltarally
   Abd: ostomy with scant drainage but lots of gas, no rebound/guarding
   Skin: wound vacs in place, draining appropriately, no erythema
   Ext: 2+ edema
   Labs / Radiology
   796 K/uL
   7.6 g/dL
   183 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.6 mEq/L
   7 mg/dL
   107 mEq/L
   139 mEq/L
   24.3 %
   12.1 K/uL
        [image002.jpg]
                             [**2105-4-21**]  04:04 AM
                             [**2105-4-22**]  04:26 AM
                             [**2105-4-22**]  04:54 PM
                             [**2105-4-23**]  03:18 AM
                             [**2105-4-24**]  03:30 AM
                             [**2105-4-25**]  04:07 AM
   WBC
   19.3
   15.6
   15.5
   11.8
   12.7
   12.1
   Hct
   25.9
   23.4
   25.7
   24.3
   23.8
   24.3
   Plt
   546
   599
   723
   552
   689
   796
   Cr
   0.5
   0.5
   0.5
   0.5
   0.6
   Glucose
   100
   88
   131
   91
   183
   Other labs: PT / PTT / INR:14.3/28.9/1.2, Differential-Neuts:72.0 %,
   Band:0.0 %, Lymph:15.0 %, Mono:9.0 %, Eos:0.0 %, Lactic Acid:1.3
   mmol/L, Ca++:7.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Assessment and Plan
 SEPSIS WITHOUT ORGAN DYSFUNCTION
 DECUBITUS ULCER (PRESENT AT ADMISSION)
 PAIN CONTROL (ACUTE PAIN, CHRONIC PAIN)
 ALTERATION IN NUTRITION
   58-yo paraplegic man with decubitus ulcers with Vac drains, colostomy /
   urostomy, who presents with fever, tachycardia, and hypotension, c/w
   sepsis.
   #. Septic shock
 Ongoing septic shock, unable to wean from pressors
   although dose is [**Month (only) **], Svo2 87 c/w poor perfusion. No further fevers and
   WBC is [**Month (only) **] which does suggest some improvement. Patient has been
   mentating well. Did appear to have reduced GFR which has now improved.
   Source is right hip wound growing strep arginosus and secondary
   bacteremia in [**1-26**] on admission. Bacteremia has cleared. TTE showed no
   vegetation but poor study. Pt is s/p washout in OR by Ortho. It is
   concerning that the patient has still not been able to come of
   pressors. Etiologies include inadequate abx, inadequate source control
   with ongoing bacteremia, adrenal insuficiency. Inadequate abx is still
   possible as sensitivities are still being done; however, Vanc levels
   are adequate and strep milleri group should be sensitive to PCN and
   Vanc. The patient was given one dose of gent.  Inadequate source
   control seems unlikely as pt has had wash out, has wound vacs in place
   and as there is no vegetation on echo to suggest ongoing endovascular
   sourse
 may consider TEE but endocarditis is rare in strep milleri
   particularly with small colony strep (which is what the patient
   presentation is most c/w).  Cortisol levels have been checked as well
   as [**Last Name (un) 402**] stim and is nl r/o adrenal insufficiency. TSH is also normal.
   Of note, patient is making a lot of urine
 200cc/hr- which raises the
   question if post-ATN diuresis is making him intravascularly dry.
   - cont vasopressor support for now
   - Per ID, will cont Vanc/Zosyn for now, but may transition to
   CTX/Flagyl if micro data does not grow out polymicrobes
   - f/u cx data
   - appreciate general surgery and orthopedics consults
   - follow serial labs including lactate, chemistries, blood gases
   - give a [**12-26**] day trial of hydrocort 50 Q6H to see if it helps with BP
   #. Right anterior groin collection
 Decubitous ulcer communicateds
   with groin collection per plastics. S/p wash out of purulent material
   in OR, fluid sent for analysis. Fluid showing probable poly-microbial
   collection. Now s/p 2nd washout w/ bone material sent for analysis
   - appreciate general surgery and orthopedics consults
   - f/u bone material analysis - infectious and pathology
   - since growing out strep, ID recommended MRI brain to rule out
   abscesses; however, no mental status changes
   # Anemia:
   - repeat HCT in PM, transfuse for Hg <7
   #. Decubitus ulcerations - Chronic, currently w/ wound-Vacs in place on
   two separate ulcers.
   - appreciate plastics involvement
   - wound care nursing consult
   - contine to monitor for signs of infection
   - would likely be adequately covered with broad-spectrums
   #. Productive cough - Symptoms are likely upper respiratory in origin,
   and clear exam and CXR is consistent.
   - cont home Albuterol nebs PRN
   #. Abdominal pain - Chronic per patient, and symptoms are migratory in
   nature. CT with chronic findings, no acute changes.
   - simethicone PRN
   - appreciate general surgery recs
   - cont to monitor
   #. Paraplegia
   - cont Lovenox [**Hospital1 **] will  need to hold for OR tomorrow
   - cont home OxyContin, PRN Percocet / Tylenol, Ativan
   - cont home vitamins: Vit B12, iron, folate, MVI
   - cont home bowel regimen: Colace, PRN Senna / Bisacodyl / MoM
   - Nutrition consult
   #. GERD - cont home PPI, PRN antacid
   #. HL - cont home TriCor
   #. Communication - with patient, girlfriend [**Name (NI) 7158**] [**Name (NI) 7159**]
   [**Telephone/Fax (1) 7160**]
   ICU Care
   Nutrition: Regular + supplements
   Glycemic Control:
   Lines:
   Multi Lumen - [**2105-4-20**] 06:52 AM
   Prophylaxis:
   DVT: Lovenox
   Stress ulcer: home PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU for now

2105-04-25 11:31:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Went for repeat washout of abscess yesterday.  Remained on neo
   overnight.  Continues to make copious urine.
   Given couple of doses of hydrocortisone yesterday
   History obtained from [**Hospital 15**] Medical records
   Allergies:
   Ivp Dye
   Iodine Containing
   Unknown;
   Motrin (Oral) (Ibuprofen)
   Unknown;
   Aspirin
   Unknown;
   Last dose of Antibiotics:
   Gentamicin - [**2105-4-23**] 12:45 PM
   Piperacillin/Tazobactam (Zosyn) - [**2105-4-25**] 08:17 AM
   Vancomycin - [**2105-4-25**] 08:17 AM
   Infusions:
   Phenylephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Enoxaparin (Lovenox) - [**2105-4-25**] 09:17 AM
   Other medications:
   Vit B12, MVI, ferrous sulfate, folate, oxycode SR, Tricor, omeprazole,
   zinc, Vit C, Vit A, colace
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2105-4-25**] 11:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.5
   Tcurrent: 36.1
C (97
   HR: 74 (56 - 93) bpm
   BP: 104/54(66) {76/40(48) - 137/66(84)} mmHg
   RR: 18 (10 - 18) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 72 Inch
   CVP: 12 (-21 - 19)mmHg
   Total In:
                                                                  3,795 mL
                                                                    603 mL
   PO:
                                                                     50 mL
   TF:
   IVF:
                                                                  3,745 mL
                                                                    603 mL
   Blood products:
   Total out:
                                                                  4,250 mL
                                                                    670 mL
   Urine:
                                                                  3,475 mL
                                                                    670 mL
   NG:
   Stool:
                                                                    275 mL
   Drains:
                                                                    500 mL
   Balance:
                                                                   -455 mL
                                                                    -67 mL
   Respiratory support
   SpO2: 95%
   ABG: ///24/
   Physical Examination
   General Appearance: No acute distress, pleasant
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal), No(t) S3, No(t) S4,
   (Murmur: No(t) Systolic, No(t) Diastolic)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended,
   colostomy
   Extremities: Right: Absent, Left: Absent, 2 wound vac's in place. No
   erythema.
   Skin:  Not assessed
   Neurologic: Attentive, Follows simple commands, Responds to: Not
   assessed, Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.6 g/dL
   796 K/uL
   183 mg/dL
   0.6 mg/dL
   24 mEq/L
   3.6 mEq/L
   7 mg/dL
   107 mEq/L
   139 mEq/L
   24.3 %
   12.1 K/uL
        [image002.jpg]
                             [**2105-4-21**]  04:04 AM
                             [**2105-4-22**]  04:26 AM
                             [**2105-4-22**]  04:54 PM
                             [**2105-4-23**]  03:18 AM
                             [**2105-4-24**]  03:30 AM
                             [**2105-4-25**]  04:07 AM
   WBC
   19.3
   15.6
   15.5
   11.8
   12.7
   12.1
   Hct
   25.9
   23.4
   25.7
   24.3
   23.8
   24.3
   Plt
   546
   599
   723
   552
   689
   796
   Cr
   0.5
   0.5
   0.5
   0.5
   0.6
   Glucose
   100
   88
   131
   91
   183
   Other labs: PT / PTT / INR:14.3/28.9/1.2, Differential-Neuts:72.0 %,
   Band:0.0 %, Lymph:15.0 %, Mono:9.0 %, Eos:0.0 %, Lactic Acid:1.3
   mmol/L, Ca++:7.2 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Fluid analysis / Other labs: UOsm 421
   UNa 38
   Imaging: No new imaging
   Microbiology: No new data
   Path from yesterday pending
   Assessment and Plan
   58-yo paraplegic man with decubitus ulcers with Vac drains, colostomy /
   urostomy, who presents with fever, tachycardia, and hypotension, c/w
   sepsis. Found to have R hip abscess.
   #. Septic shock
 improved but still requiring low dose pressors. [**Last Name (un) **]
   stim 9-->19, no BP response to one dose of hydrocortisone yesterday.
   -Will continue hydrocortisone trial for 2 days, if no effect-->D/c.
   - Difficult to make positive due to brisk urine output, will try to
   keep even to positive.
   -Will wean neo as able today.
    #ID Polymicrobial hip Abscess and osteo.  Growing step and gram stain
   with gram neg rods.
   -Appreciate ID recs.  If material from yesterday's procedure yields
   similar data, will change to ceftriaxone/flagyl.
   - serial blood cx negative
   -ID rec MRI of brain to rule out abscess from strep will follow no
   neuro changes and will ask family if any changes in baseline.
    #. Decubitus ulcerations - Chronic, currently w/ wound-Vacs in place
   on two separate ulcers.
   - Appreciate wound care input.
    #. Paraplegia
   - cont Lovenox
   - cont home OxyContin, PRN Percocet / Tylenol, Ativan
   - cont home vitamins: Vit B12, iron, folate, MVI
   - cont home bowel regimen: Colace, PRN Senna / Bisacodyl / MoM
   - Nutrition consult
   #. GERD - cont home PPI, PRN antacid
   #. HL - cont home TriCor
    #Heme-Elevated INR corrected
   Hct stable
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Multi Lumen - [**2105-4-20**] 06:52 AM
   Prophylaxis:
   DVT: LMW Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill